US07541478B2
A mixture of (2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylic acid acetone solvate (60 g), ethanol (540 ml) and water (108 ml) was heated to 60° C., and 5% aqueous ammonia (54 ml) was added dropwise thereto with stirring to dissolve the mixture. The solution was stirred at about the same temperature for 30 minutes and, after filtration, the solution was washed with a mixture of ethanol (60 ml) and water (12 ml). The filtrate was combined with the washings to obtain a solution of ammonium (2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylate. The solution was warmed to 75° C., and an aqueous solution of calcium chloride (5.9 g/120 ml) was added dropwise thereto with keeping the temperature almost the same and stirring. The reaction mixture was heated to 78° C., and stirred at about the same temperature for 3 hours and then at 25° C. for 1 hour. Crystals were collected by filtration, washed with ethanol/water (120 ml/120 ml), dried and stored at room temperature to obtain the title compound as colorless crystals (49 g, yield 80.1%). The crystals obtained showed the X-ray powder diffraction pattern as shown in FIG. 2 and have the following representative lattice spacings. Crystallinity was 75%.

reactant | (2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylic acid acetone | 60 g | CC(=O)C.ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F)C=1C=C(C=CC1)/C=C/C(=O)O)C
reactant | ethanol | 540 ml | C(C)O | C2H6O
reactant | ammonia | 54 ml | N | H3N
solvent | water | 108 ml | O | H2O
product | ammonium (2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylate | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F)C=1C=C(C=CC1)/C=C/C(=O)[O-])C.[NH4+] | InChI=1S/C28H18ClF4NO5.H3N/c1-14-9-18-23(13-21(14)29)39-27(38)19(26(18)16-4-2-3-15(10-16)5-8-25(36)37)12-24(35)34-22-7-6-17(30)11-20(22)28(31,32)33;/h2-11,13H,12H2,1H3,(H,34,35)(H,36,37);1H3/b8-5+;
